US04513006
To a cold solution (-4° C.) of (1-methylcyclohexyl)methanol (6.2 g, 0.048 mol) in DMF (90 ml) was added 50% oily sodium hydride (2.81 g, 0.059 mol as NaH). After stirring for 1 hr, sulfamoyl chloride (7.82 g, 0.062 mol) was added and the stirring was continued for an additional 30 min at -4° C. The reaction mixture was poured into cold water and extracted with toluene. The organic layer was dried (Na2SO4) and the solvents were removed under vacuum to give a syrup which crystallized upon cooling. Recrystallization from chloroform/hexane gave pure (1-methylcyclohexyl)methane sulfamate, mp 40°-42° C.

reactant | (1-methylcyclohexyl)methanol | 0.048 mol, 6.2 g | CC1(CCCCC1)CO | C8H16O
reactant | sodium hydride | 0.059 mol, 2.81 g | [H-].[Na+]
reactant | sulfamoyl chloride | 0.062 mol, 7.82 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | water | O | H2O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | (1-methylcyclohexyl)methane sulfamate | S(N)(O)(=O)=O.CC1(CCCCC1)C | InChI=1S/C8H16.H3NO3S/c1-8(2)6-4-3-5-7-8;1-5(2,3)4/h3-7H2,1-2H3;(H3,1,2,3,4)
